US06903114B2
(a) 1-(6,7-Dimethoxy-naphthalen-2-yl)-heptan-1-one
Aluminium chloride (2.66 g) was added to a solution of: heptanoylchloride (3.1 ml) and 2,3-dimethoxynaphthalene (3.76 g) in methylene chloride (50 ml) at 0° C. The reaction mixture was stirred at room temperature overnight and then worked up as described in example 3(a). The crude product was recrystallized from ethanol. Yield: 2.8 g, melting point 77-78° C.

reactant | Aluminium chloride | 2.66 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | heptanoylchloride | 3.1 ml | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | 2,3-dimethoxynaphthalene | 3.76 g | COC1=CC2=CC=CC=C2C=C1OC | C12H12O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-(6,7-Dimethoxy-naphthalen-2-yl)-heptan-1-one | COC=1C=C2C=CC(=CC2=CC1OC)C(CCCCCC)=O | C19H24O3
